US07151105B2
Step 1: 1-(6-Methoxy-pyridin-3-yl)-ethanol
To a solution of 5-bromo-2methoxy-pyridine (19.3 g, 193 mmol) in anhydrous Et2O (200 mL) at −78° C. was added n-BuLi (2.5 M in hexanes, 50 mL) over 30 min. The resulting mixture was stirred at that temperature for addition 30 min before acetaldehyde (5 mL) was added. The reaction was slowly warmed up to room temperature and the solvent was removed in vacuo. The residue was purified by flash column chromatography to afford the desired product (14.3 g, 91% yield). 1H NMR (400 MHz, CDCl3): δ 1.50 (d, J=8.0 Hz, 3 H), 3.93 (s, 3 H), 4.87–4.92 (m, 1 H), 6.75 (d, J=8.0 Hz, 3 H), 7.63–7.66 (m, 1 H), 8.12–8.14 (m, 1 H).

reactant | 5-bromo-2methoxy-pyridine | 193 mmol, 19.3 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | n-BuLi | 2.5 M, 50 mL | [Li]CCCC
reactant | acetaldehyde | 5 mL | C(C)=O | C2H4O
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 1-(6-Methoxy-pyridin-3-yl)-ethanol | 14.3 g, 91% yield | COC1=CC=C(C=N1)C(C)O | C8H11NO2
